US08039122B2
First, a synthetic method of 3,6-dibromocarbazole will be shown below. A mixture of 6.5 g (20.0 mmol) 3,6-dibromocarbazole, 5.0 g (41.0 mmol) of phenylboronic acid, 93 mg (0.40 mmol) of palladium acetate, 6.9 g (5.2 mmol) of potassium carbonate, water (25 mL), 610 mg of tri(ortho-tolyl)phosphine, and dimethoxyethane (50 mL) is heated to reflux at 80° C. for 3.5 three hours. After the reaction, the solution is rinsed with water, aqueous layer is extracted with toluene, and it is rinsed together with the organic layer using saturated salt solution, and thereafter dried with magnesium sulfate. After natural filtration, the filtrate is condensed to obtain 4.1 g of 3,6-di(2-phenyl-phenyl)-carbazole as a white solid at a yield of 63%. A synthetic scheme of 3,6-di(2-phenyl-phenyl)-carbazole is shown below.

reactant | 3,6-dibromocarbazole | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | 3,6-dibromocarbazole | 20.0 mmol, 6.5 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | phenylboronic acid | 41.0 mmol, 5.0 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 5.2 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | tri(ortho-tolyl)phosphine | 610 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium acetate | 0.40 mmol, 93 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethoxyethane | 50 mL | C(OC)COC | C4H10O2
solvent | water | 25 mL | O | H2O
product | 3,6-di(2-phenyl-phenyl)-carbazole | 4.1 g, yield of 63% | C1(=CC=CC=C1)C1=C(C=CC=C1)C=1C=CC=2NC3=CC=C(C=C3C2C1)C1=C(C=CC=C1)C1=CC=CC=C1 | C36H25N
